US07943551B2
Step 1: Synthesis of 2-chloro-3-(2′-methoxyethyl)thio-4-methylsulfonylbenzoic acid
5.0 g (19.8 mmol) of 2-chloro-3-fluoro-4-methylsulfonylbenzoic acid (synthesis described in WO 98/42648) were taken up in 40 ml of DMF. 871 mg (21.8 mmol, purity 60% by weight) of NaH were added. The mixture was stirred at RT for 30 minutes. A reaction mixture containing the sodium salt of 2-methoxyethanethiol (prepared from a solution of 2.19 g (23.7 mmol) of 2-methoxyethanethiol in 10 ml of DMF which had been added dropwise to a suspension of 950 mg (23.7 mmol, purity 60% by weight) of NaH in 30 ml of DMF, followed by stirring at RT for 30 minutes) was then added a little at a time. During the addition, the temperature was kept below 30° C. The reaction mixture was stirred at RT for 16 h, for work-up diluted with water and washed with diethyl ether. The aqueous phase was acidified with 1M HCl and extracted with tert-butyl methyl ether. The organic phase was dried and filtered. The aqueous phase was additionally extracted with EA, and the organic phase was also dried and filtered. The filtrates of the organic phases were combined and freed from the solvent. The residue was dried under reduced pressure and purified chromatographically. This gave 4.8 g of the pure product.

reactant | 2-chloro-3-fluoro-4-methylsulfonylbenzoic acid | 19.8 mmol, 5.0 g | ClC1=C(C(=O)O)C=CC(=C1F)S(=O)(=O)C | C8H6ClFO4S
reactant | NaH | 21.8 mmol, 871 mg | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2-methoxyethanethiol | COCCS | C3H8OS
reactant | 2-methoxyethanethiol | 23.7 mmol, 2.19 g | COCCS | C3H8OS
reactant | NaH | 23.7 mmol, 950 mg | [H-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-3-(2′-methoxyethyl)thio-4-methylsulfonylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1SCCOC)S(=O)(=O)C | C11H13ClO5S2
